US06919331B2
To a solution of 1-[5-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one (41 mg, 0.10 mmol) in DCM (1 mL) was added DAST (32 mg, 0.20 mmol) at 0° C. The final solution was stirred at ambient temperature for 12 h then washed with sat. NaHCO3 and brine. The organic layer was dried over MgSO4 and evaporated. The residue was purified by slash chromatography (hexanes:EtOAc 2:1 to 1:1) to give 32 mg (78%) of 1-[5-fluoromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one as a white solid.

reactant | 1-[5-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 0.10 mmol, 41 mg | OCC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C24H30N4O2
reactant | DAST | 0.20 mmol, 32 mg | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-fluoromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | 32 mg, 78% | FCC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C24H29FN4O
